.SUBCKT LV1UPMOS 10 20 30
*     TERMINALS:  D G S
M1 1 2 3 3 PMOS L=1E-6 W=1E-6
RD 10 1 0.04762 
RS 30 3 1e2
RG 20 2 17 
CGS 2 3 3.334E-010 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1
CGD 13 14 3.9E-010 
R1 13 30 1 
D1 13 12 DLIM
DDG 14 15 DCGD
R2 12 15 1
D2 30 15  DLIM
DSD 10 3 DSUB
.MODEL PMOS PMOS(LEVEL=3 U0=400 VMAX=7.77E+005  ETA=0.001 TOX=30E-9 NSUB=1E+020 KP=7.61 KAPPA=25 VTO=-1.0)
.MODEL DCGD D(CJO=1.725E-010 VJ=0.4474 M=0.3707)
.MODEL DSUB D(IS=1.119E-011 N=1.169 RS=0.06724 BV=35 CJO=2.406E-011 VJ=0.1 M=0.8)
.MODEL DLIM D(IS=0.0001)
.ENDS LV1UPMOS